US07129246B2
(vi) tert-Butyl[3-(4-{[(1-adamantylmethyl)amino]carbonyl}-5-chloropyridin-2-yl)propyl](3-{[tert-butyl(dimethyl)silyl]oxy}propyl)carbamate
A solution of tert-butyl allyl(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)carbamate (0.50 g) in 9-boroabicyclo[3.3.1]nonane (6.0 ml of a 0.5M solution in tetrahydrofuran) was heated at reflux under nitrogen for 4 hours. The solution was cooled to 0° C. and potassium phosphate (2 ml of a 3M solution in water) was added. The mixture was stirred for 15 minutes and a solution of N-(1-adamantylmethyl)-2,5-dichloroisonicotinamide (0.50 g) (prepared as described in WO 01/94338) and tetrakis(triphenylphosphine)palladium (0) (0.045 g) in anhydrous N,N-dimethylformamide (3 ml) was added. The mixture was heated at 70° C. under nitrogen for 4 hours, diluted with saturated brine (25 ml) and extracted into ethyl acetate (3×25 ml). The combined extracts were dried over anhydrous sodium sulphate, filtered and concentrated. The residue was purified by chromatography on silica, gel eluting with iso-hexane:ethyl acetate (9:1 to 4:1) to afford the sub-titled compound (0.46 g).

reactant | tert-butyl allyl(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)carbamate | 0.50 g | C(C=C)N(C(OC(C)(C)C)=O)CCCO[Si](C)(C)C(C)(C)C | C17H35NO3Si
reactant | nonane | CCCCCCCCC | C9H20
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N-(1-adamantylmethyl)-2,5-dichloroisonicotinamide | 0.50 g | C12(CC3CC(CC(C1)C3)C2)CNC(C2=CC(=NC=C2Cl)Cl)=O | C17H20Cl2N2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | brine | 25 ml | [Cl-].[Na+].O
catalyst | tetrakis(triphenylphosphine)palladium | 0.045 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl[3-(4-{[(1-adamantylmethyl)amino]carbonyl}-5-chloropyridin-2-yl)propyl](3-{[tert-butyl(dimethyl)silyl]oxy}propyl)carbamate | 0.46 g | C(C)(C)(C)OC(N(CCCO[Si](C)(C)C(C)(C)C)CCCC1=NC=C(C(=C1)C(=O)NCC12CC3CC(CC(C1)C3)C2)Cl)=O | C34H56ClN3O4Si
